US04368067
Preparation of N-[(4,6-dimethylpyrimidin-2-yl)aminocarbonyl]-5-trichloroacetyl-1H-pyrrole-2-sulfonamide.
To a stirred suspension of 2.59 g (0.021 mol) of 2-amino-4,6-dimethylpyrimidine in 60 ml dry CH3NO2 at -10° was added dropwise, via syringe, under nitrogen, 2.0 ml (0.023 mole) of chlorosulfonyl isocyanate at such a rate to maintain the temperature below 5°. The resulting clear solution was stirred 0.5 hour at -5°, then treated dropwise with a solution of 4.46 g (0.021 mole) of 2-trichloroacetyl-1H-pyrrole in 30 ml dry CH3NO2. Upon completion of the addition, 2.95 g (0.022 mole) of aluminum (III) chloride was added in one portion and the reaction mixture stirred 1.5 hour at ambient temperatures followed by 0.5 hour under reflux. The cool solution was poured into H2O, diluted with CH2Cl2 and the layers separated. A precipitate was present in the aqueous layer and was collected by filtration and washed well with water. The organic solution was washed with H2O, dried over MgSO4, evaporated and triturated with CH2Cl2 to afford a second crop of product. Total yield of product was 2.45 g of a tan solid, m.p. 215°-218° (d). The infrared spectrum of the product included absorptions at 3230 (NH), 1692 (C=O), 1340 and 1160 cm-1 (SO2).

reactant | 2-amino-4,6-dimethylpyrimidine | 0.021 mol, 2.59 g | NC1=NC(=CC(=N1)C)C | C6H9N3
reactant | chlorosulfonyl isocyanate | 0.023 mole, 2.0 ml | ClS(=O)(=O)N=C=O | CClNO3S
reactant | 2-trichloroacetyl-1H-pyrrole | 0.021 mole, 4.46 g | ClC(C(=O)C=1NC=CC1)(Cl)Cl | C6H4Cl3NO
reactant | aluminum (III) chloride | 0.022 mole, 2.95 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | CH3NO2 | 60 ml | C[N+](=O)[O-] | CH3NO2
solvent | CH3NO2 | 30 ml | C[N+](=O)[O-] | CH3NO2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | H2O | O | H2O
product | N-[(4,6-dimethylpyrimidin-2-yl)aminocarbonyl]-5-trichloroacetyl-1H-pyrrole-2-sulfonamide | CC1=NC(=NC(=C1)C)NC(=O)NS(=O)(=O)C=1NC(=CC1)C(C(Cl)(Cl)Cl)=O | C13H12Cl3N5O4S
